US04510331
A 500-ml four-necked flask equipped with hydrogen bromide inlet, thermometer, 7-octenoic acid inlet and oxygen inlet was charged with 10 g of 7-octenoic acid and 50 ml of toluene. After passing air at 20° C. with stirring at a rate of 10 liters per hour for 30 minutes, hydrogen bromide and a solution of 90 g of 7-octenoic acid in 250 ml of toluene were continuously fed with stirring at the rates of 120 ml/hr and 9 l/hr, respectively. After 3 hours of reaction, the reaction mixture was treated in the same manner as described above under (3) (i) to give 139 g (89% yield) of 8-bromocaprylic acid.

reactant | 7-octenoic acid | 10 g | C(CCCCCC=C)(=O)O | C8H14O2
reactant | hydrogen bromide | Br | BrH
reactant | 7-octenoic acid | 90 g | C(CCCCCC=C)(=O)O | C8H14O2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 8-bromocaprylic acid | 139 g, 89% yield | BrCCCCCCCC(=O)O | C8H15BrO2
